US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 0.9 g of 6-acetyl-2-(2-chloroethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine and 1.0 g of 4-(5-chloro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 0.7 g of 6-acetyl-2-(2-(4-(5-chloro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine as an oil, m.p. 122°-124° C. (decomposition) as a hydrochloride thereof.

reactant | 6-acetyl-2-(2-chloroethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.9 g | C(C)(=O)N1CC2=C(CC1)C=C(S2)CCCl | C11H14ClNOS
reactant | 4-(5-chloro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 1.0 g | Cl.ClC=1C=CC2=C(C(=NO2)C2CCNCC2)C1
reactant | hydrochloride | Cl | ClH
product | 6-acetyl-2-(2-(4-(5-chloro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.7 g | C(C)(=O)N1CC2=C(CC1)C=C(S2)CCN2CCC(CC2)C2=NOC1=C2C=C(C=C1)Cl | C23H26ClN3O2S
